US07476399B2
Phthalic anhydride (10.30 g, 69.55 mmol) and D-Leucinol (8.15 g, 69.55 mmol) were mixed in THF (100 mL), the reaction mixture was heated at 85° C. and refluxed for 18 hours. After cooling to room temperature, water was added and the solution was extracted with EtOAC, the extracts were washed with 1 N HCl, water, aq. NaHCO3, water and brine, dried over MgSO4, filtered and evaporated to give 8.1 g of (R)-2-(1-hydroxy-4-methylpentan-2-yl)isoindoline-1,3-dione (47%). 1H NMR (500 MHz, CDCl3): δ 0.94 (m, 6H); 1.54 (m, 2H); 1.99 (m, 1H); 3.86 (m, 1H); 4.04 (m, 1H); 4.47 (m, 1H); 7.72 (m, 2H); 7.83 (m, 2H).

reactant | Phthalic anhydride | 69.55 mmol, 10.30 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | D-Leucinol | 69.55 mmol, 8.15 g | N[C@H](CC(C)C)CO | C6H15NO
reactant | water | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (R)-2-(1-hydroxy-4-methylpentan-2-yl)isoindoline-1,3-dione | 8.1 g, 47% | OC[C@@H](CC(C)C)N1C(C2=CC=CC=C2C1=O)=O | C14H17NO3
